US04235915
Threo 1-benzoyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]-urea
1-Benzoyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-oxoethyl)piperid-4-yl]-urea (7.21 g, 0.017 mol) was suspended in methanol (80 cm3) and was stirred at room temperature. Sodium borohydride (1.0 g, 0.026 mol) in 2N sodium hydroxide (10 cm3) was added dropwise to the stirring solution and then left to stir for a further hour. Water was added and the solid filtered off and dried (5.41 g, 75%). A. T.L.C. of a small portion of the solid was run in freshly prepared toluene: ethanol: 0.880 ammonia (90:10:1 by volume) on a silica plate and was found to contain two components having RF values of about 0.30 and 0.34. The solid was recrystallised from n-butyl acetate (9 times) to give the component (1.19 g) with the lower RF value. This was suspended in a small amount of methanol and ethanolic HCl added until the solution was just acidic. The hydrochloride of the title compound (0.96 g, 74%) was collected.

reactant | 1-Benzoyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-oxoethyl)piperid-4-yl]-urea | 0.017 mol, 7.21 g | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CC(=O)C1COC2=C(O1)C=CC=C2 | C23H25N3O5
reactant | Sodium borohydride | 0.026 mol, 1.0 g | [BH4-].[Na+]
reactant | Water | O | H2O
reactant | HCl | Cl | ClH
solvent | methanol | 80 cm3 | CO | CH4O
solvent | sodium hydroxide | 2N, 10 cm3 | [OH-].[Na+]
product | 1-benzoyl-3-[1-(2-[1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]-urea | C(C1=CC=CC=C1)(=O)NC(=O)NC1CCN(CC1)CC(O)C1COC2=C(O1)C=CC=C2 | C23H27N3O5
